US08471019B2
3,10-Diethoxy-7,14-bis-(4-ethoxy-phenyl)-chromeno[2,3-b]xanthene
Synthesis of the precursor 2,5-Bis-[bis-(4-ethoxy-phenyl)-methoxy-methyl]-benzene-1,4-diol: This compound is prepared in an analogous manner as described in example 9. From 10.16 g of 1,4-bis-(1-ethoxy-ethoxy)-benzene (40 mmol) and bis-(4-ethoxy-phenyl)-methanone (21.6 g, 80 mmol) 17.95 g (66%) of the product is obtained. b) A flask is charged with 2,5-Bis-[bis-(4-ethoxy-phenyl)-methoxy-methyl]-benzene-1,4-diol (16.97 g, 25 mmol) and nitrobenzene (30 ml) and heated at 195° C. (bath temperature) for two hours. The dark violet coloured mixture is then allowed to cool to ambient temperature. The product is then filtered off, and washed for three times with nitrobenzene (ca. 7 ml each time) and three times with toluene (ca. 8 ml each time) and finally dried in vacuum to give the product as deep violet crystals, 6.03 g (39%). The DSC of this material shows a mp. of 302° C. The structure of the material was confirmed by X-ray crystallography; space group: P-1; a=7.483(6); b=8.710(7); c=12.618(7); α=91.22(5) β=92.43(5) γ=110.35(5).

reactant | 2,5-Bis-[bis-(4-ethoxy-phenyl)-methoxy-methyl]-benzene-1,4-diol | 25 mmol, 16.97 g | C(C)OC1=CC=C(C=C1)C(C1=C(C=C(C(=C1)O)C(OC)(C1=CC=C(C=C1)OCC)C1=CC=C(C=C1)OCC)O)(OC)C1=CC=C(C=C1)OCC | C42H46O8
solvent | nitrobenzene | 30 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 3,10-Diethoxy-7,14-bis-(4-ethoxy-phenyl)-chromeno[2,3-b]xanthene | C(C)OC1=CC=2OC3=CC=4C(=CC3=C(C2C=C1)C1=CC=C(C=C1)OCC)OC1=CC(=CC=C1C4C4=CC=C(C=C4)OCC)OCC | C40H36O6
